US05552426
The intermediate 2-(3-methylphenyl)benzimidazole was prepared by first mixing reacting 1-amino-2-nitrobenzene (8.50 g, 61.54 mmol) with toluene (180 ml) and heating to 100° C. To this mixture was then added 20 ml of N,N-diethylaniline and the reaction vessel was placed under a nitrogen atmosphere. To this solution was then added 3-methylbenzoyl chloride (24 ml, 132 mmol) and this mixture was then stirred overnight.

reactant | 1-amino-2-nitrobenzene | 61.54 mmol, 8.50 g | NC1=C(C=CC=C1)[N+](=O)[O-] | C6H6N2O2
reactant | N,N-diethylaniline | 20 ml | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | 3-methylbenzoyl chloride | 132 mmol, 24 ml | CC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO
solvent | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-methylphenyl)benzimidazole | CC=1C=C(C=CC1)C=1NC2=C(N1)C=CC=C2 | C14H12N2
